US09102614B2
Preparation of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,5-dimethylnaphthalen-2-yl)acetate:
To a solution of ethyl 2-(5-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (100 mg, 0.204 mmol) and 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (0.086 mL, 0.61 mmol) in toluene:ethanol (2:1, 3 mL) and water (1 mL) was added potassium carbonate (282 mg, 2.04 mmol) and PdCl2(dppf) (15 mg, 0.02 mmol) and the reaction was degassed with argon for 10 minutes. The reaction was heated to 100° C. for 20 minutes in a microwave reactor. The crude reaction was purified by flash column chromatography (silica gel, ethyl acetate/hexanes) to give a yellow oil (32 mg) 1H-NMR: 400 MHz, (CD3OD) δ: 8.08-7.87 (m, 2H), 7.87 (s, 1H), 7.65-7.35 (m, 1H), 7.26 (m, 2H), 7.15 (d, J=7.2 Hz, 1H), 7.09 (d, J=8.0 Hz, 1H). 5.10 (s, 1H), 4.14 (m, 2H), 2.69 (s, 3H), 2.65 (s, 3H), 1.20 (t, J=6.8 Hz, 3H), 0.99 (s, 9H).

reactant | ethyl 2-(5-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 0.204 mmol, 100 mg | BrC1=C2C=C(C(=C(C2=CC=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane | 0.61 mmol, 0.086 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium carbonate | 2.04 mmol, 282 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene ethanol | 3 mL | C1(=CC=CC=C1)C.C(C)O
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 0.02 mmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-3,5-dimethylnaphthalen-2-yl)acetate | 32 mg | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC(=C2C=C1C)C)C1=CC=C(C=C1)Cl | C26H29ClO3
